US08710261B2
Step 1: Synthesis of tert-butyl 2-(2-{[(benzyloxy)carbonyl]amino}ethyl)-5-biphenyl-4-yl-3-oxopentanoate
To a solution of the compound tert-butyl 5-biphenyl-4-yl-3-oxopentanoate (237 mg,) in tetrahydrofuran (4 ml) and tert-butyl alcohol (4 ml) at 0° C. under inert atmosphere was added potassium tert-butoxide (98 mg) and stirred for 20 minutes. To this at 0° C. was then added n-tetrabutylammonium iodide (27 mg) and benzyl aziridine-1-carboxylate (130 mg) and stirred the reaction mixture for 5 minutes. The resulting reaction mixture was warmed to room temperature and then further heated at 70° C. for 2 hours. The solvent was evaporated under reduced pressure and the residue thus obtained was taken in water and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue thus obtained was purified by column chromatography using 20% ethyl acetate in hexane as eluant to furnish the title compound (60 mg).

reactant | tert-butyl 5-biphenyl-4-yl-3-oxopentanoate | 237 mg | C1(=CC=C(C=C1)CCC(CC(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C21H24O3
reactant | potassium tert-butoxide | 98 mg | CC(C)([O-])C.[K+]
reactant | benzyl aziridine-1-carboxylate | 130 mg | N1(CC1)C(=O)OCC1=CC=CC=C1 | C10H11NO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tert-butyl alcohol | 4 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | tert-butyl 2-(2-{[(benzyloxy)carbonyl]amino}ethyl)-5-biphenyl-4-yl-3-oxopentanoate | 60 mg | C(C1=CC=CC=C1)OC(=O)NCCC(C(=O)OC(C)(C)C)C(CCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C31H35NO5
